US08242145B2
Step 3: (2-Bromo-5-hydroxy-phenyl)-acetic acid
(2-Bromo-5-hydroxy-phenyl)-acetonitrile (1.4 g, 6.6 mmol) and potassium hydroxide (4.5 g, 78.9 mmol) were combined in tBuOH and stirred at 85° C. for 3 hours. Once no starting material was seen by analytical LCMS, the mixture was cooled to 0° C. and the pH was adjusted to pH 6 with 10% aqueous HCl. The solution was extracted with EtOAc to give the desired product as a colorless oil (1.5 g).

reactant | (2-Bromo-5-hydroxy-phenyl)-acetonitrile | 6.6 mmol, 1.4 g | BrC1=C(C=C(C=C1)O)CC#N | C8H6BrNO
reactant | potassium hydroxide | 78.9 mmol, 4.5 g | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | tBuOH | CC(C)(C)O | C4H10O
product | (2-Bromo-5-hydroxy-phenyl)-acetic acid | 1.5 g | BrC1=C(C=C(C=C1)O)CC(=O)O | C8H7BrO3
